US04340740
m-(Bromomethyl)benzophenone is reacted with sodium cyanide to form (m-benzoylphenyl)acetonitrile which is reacted with diethyl carbonate in the presence of sodium ethoxide to form sodium salt of ethyl alpha-cyano(m-benzoylphenyl)acetate. The sodium salt is reacted with methyl iodide to obtain ethyl alpha-cyano-alpha-(m-benzoylphenyl)propionate. The resulting ester is hydrolyzed and then subjected to decarboxylation to form alpha-(m-benzoylphenyl)propionitrile. Alkaline hydrolysis of alpha-(m-benzoylphenyl)propionitrile affords alpha-(m-benzoylphenyl)propionic acid. (For details, see British Patent No. 1,164,585).

reactant | m-(Bromomethyl)benzophenone | BrCC=1C=C(C=CC1)C(C1=CC=CC=C1)=O | C14H11BrO
reactant | sodium cyanide | [C-]#N.[Na+]
product | (m-benzoylphenyl)acetonitrile | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)CC#N | C15H11NO
